US09056874B2
5,7-Dimethyl-3-phenyl-1-tosyl-1H-indole-4-carbaldehyde
To a suspension of 3-bromo-5,7-dimethyl-1-tosyl-1H-indole-4-carbaldehyde (100 mg, 0.246 mmol), phenylboronic acid (60.0 mg, 0.492 mmol), and K3PO4 (157 mg, 0.738 mmol) in DME (1 mL)/H2O (0.5 mL), Pd(OAc)2 (5.53 mg, 0.025 mmol) and S-phos (CAS#657408-07-6) (20.21 mg, 0.049 mmol) were added the mixture was stirred at 80° C. for 15 h. The reaction mixture was cooled to room temperature and diluted with CH2Cl2 and water. The layers were partitioned. The organic layer was separated, dried over MgSO4, filtered and concentrated. The resulting residue was purified by silica gel flash column chromatography [heptane/(30% EtOAc in CH2Cl2)=1/0 to 4/6] to give the title compound. MS (ESI+) m/z 404.1 (M+H).

reactant | 3-bromo-5,7-dimethyl-1-tosyl-1H-indole-4-carbaldehyde | 0.246 mmol, 100 mg | BrC1=CN(C=2C(=CC(=C(C12)C=O)C)C)S(=O)(=O)C1=CC=C(C)C=C1 | C18H16BrNO3S
reactant | phenylboronic acid | 0.492 mmol, 60.0 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 0.738 mmol, 157 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-phos | 0.049 mmol, 20.21 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.025 mmol, 5.53 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | H2O | 0.5 mL | O | H2O
product | 5,7-Dimethyl-3-phenyl-1-tosyl-1H-indole-4-carbaldehyde | CC1=C(C=2C(=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=CC=CC=C1)C=O | C24H21NO3S
